US07718693B2
To a solution of [2-chloro-3-(trifluoromethyl)phenyl]methyl isocyanide (0.088 g, 0.4 mmol) and succinic semialdehyde (15% in water, 0.26 ml, 0.4 mmol) in methanol (1.75 ml) was added cyclopropylamine (0.042 ml, 0.6 mmol). The mixture was heated to 100° C. for 30 minutes in a microwave reactor. The solvent was removed in vacuo and the residue was purified by mass-directed automated HPLC to give N-{[2-Chloro-3-(trifluoromethyl)phenyl]methyl}-1-cyclopropyl-5-oxoprolinamide (0.076 g) as a white solid. LC/MS [M+H]+=361/363, retention time=2.39 minutes.

reactant | [2-chloro-3-(trifluoromethyl)phenyl]methyl isocyanide | 0.4 mmol, 0.088 g | ClC1=C(C=CC=C1C(F)(F)F)C[N+]#[C-] | C9H5ClF3N
reactant | succinic semialdehyde | 0.4 mmol, 0.26 ml | C(CC(=O)O)C=O | C4H6O3
reactant | cyclopropylamine | 0.6 mmol, 0.042 ml | C1(CC1)N | C3H7N
reactant | methanol | 1.75 ml | CO | CH4O
product | N-{[2-Chloro-3-(trifluoromethyl)phenyl]methyl}-1-cyclopropyl-5-oxoprolinamide | 0.076 g | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@H]1N(C(CC1)=O)C1CC1)=O | C16H16ClF3N2O2
